US08664220B2
Step 2: 1-(4′-{3-Methyl-4-[(5-phenyl-[1,3,4]oxadiazol-2-ylamino)-methyl]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 10, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-(5-phenyl-[1,3,4]oxadiazol-2-yl)-amine and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-(5-phenyl-[1,3,4]oxadiazol-2-yl)-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CNC=1OC(=NN1)C1=CC=CC=C1 | C19H15BrN4O2
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-(4′-{3-Methyl-4-[(5-phenyl-[1,3,4]oxadiazol-2-ylamino)-methyl]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CNC=1OC(=NN1)C1=CC=CC=C1 | C31H28N4O4
